Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Altered mental status
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year-old ___ female with a
history of alcohol abuse who was admitted for altered mental
status. She had been visiting her daughter ___ for the last 10
days. ___ reported that Ms. ___ was weary from jetlag for
about 2 days. She had some mild, intermittent headaches for 
which
she took some over-the-counter mediations from ___. ___
explains that about 3 days ago, Ms. ___ began to have bizzare
behavior. Specifically, her speech was not logical, and she 
could
not remember things that happened the day before. She began
staying up all night. ___ quizzed her mother and found she
could not remember the ages of her children, or the name of her
ex husband. While they were driving in the car, Ms. ___ 
became
aggressive and tried to stop the car. They got out, and ___
took her mother to use the restroom. Her mother, however, 
stopped
to urinate in the hallway. Ms. ___ then began yelling about a
burning house and documents. ___ called her father in the
___ and he instructed her to call an ambulance. Ms. ___
was combative with the ambulance personnel.

___ thinks her mother may have chronic urinary incontinence,
but is unaware of any other medical issues. She thinks she 
drinks
alcohol and smokes daily. Ms. ___ lives alone in the ___,
and ___ is unaware of anyone that would be able to give a
detailed history. ___ reports that her mother has had no
alcohol to drink since she has arrived in the ___.
___ thinks her mother has had a tonsillectomy, but is unaware
of any other surgeries or drug allergies. 

I interviewed Ms. ___ with the assistance of a translator. 
Ms.
___ herself denies having any confusion. She doesn't believe
this hospitalization is necessary, and wishes to go home. She 
has
intermittent headaches, but these resolve with over-the-counter
medication. She denies any history of alcohol withdrawal. She
denies any medical issues including schizophrenia, but on 
further
questioning reports a history of hepatitis C. She Denies any 
drug
allergies. She has a bag of medications with her, but takes 
these
all only on an as-needed basis. She reports that she drinks a
"standard" bottle of wine per week, and then an additional 
bottle
on the weekends (this amount varies upon questioning). She 
denies
illicit drug use. She denies suicidal or homicidal ideation.

In the ED, a lumbar puncture was performed and found to be
unrevealing. Urine toxicology, ASA, EtOH, acetaminophen, and
serum tricyclic testing was unrevealing. She was also found to 
be
hyponatremic, hypokalemic, and anemic.

Vitals in the ED were HR 104 BP 113/73 and RR 18 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Hepatitis C
Appendectomy
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Admission Exam: 
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress, able to provide the
date, that she is in a hospital, her name, and the ___
president's name
EYES: ___, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM.
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: Abrasion to left elbow and right knee, bandaid in lower
back
NEURO: Alert, face symmetric, gaze conjugate with EOMI, speech
fluent, moves all limbs, sensation to light touch grossly intact
throughout, not hyper-reflexive
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
___ 06:51AM BLOOD WBC-5.8 RBC-3.64* Hgb-11.1* Hct-32.1* 
MCV-88 MCH-30.5 MCHC-34.6 RDW-13.4 RDWSD-43.4 Plt ___
___ 12:46PM BLOOD WBC-7.8 RBC-3.43* Hgb-10.4* Hct-28.9* 
MCV-84 MCH-30.3 MCHC-36.0 RDW-12.9 RDWSD-39.8 Plt ___
___ 12:46PM BLOOD Neuts-76.3* Lymphs-13.7* Monos-9.1 
Eos-0.0* Baso-0.4 Im ___ AbsNeut-5.97 AbsLymp-1.07* 
AbsMono-0.71 AbsEos-0.00* AbsBaso-0.03
___ 01:12PM BLOOD ___ PTT-26.3 ___
___ 06:51AM BLOOD Glucose-72 UreaN-3* Creat-0.3* Na-138 
K-3.3* Cl-98 HCO3-22 AnGap-18
___ 12:46PM BLOOD Glucose-106* UreaN-6 Creat-0.4 Na-126* 
K-2.7* Cl-87* HCO3-25 AnGap-14
___ 12:46PM BLOOD ALT-23 AST-28 AlkPhos-42 TotBili-0.4
___ 06:51AM BLOOD Calcium-8.7 Phos-3.4 Mg-2.1 Iron-59
___ 06:51AM BLOOD calTIBC-300 Ferritn-280* TRF-231
___ 12:46PM BLOOD Osmolal-250*
___ 06:51AM BLOOD Ammonia-21
___ 12:26AM BLOOD TSH-0.06*
___ 06:51AM BLOOD T4-12.9* T3-146
___ 12:46PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 05:30PM URINE Color-Straw Appear-Clear Sp ___
___ 05:30PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-10* Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 05:30PM URINE UCG-NEGATIVE
___ 05:30PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 04:45PM CEREBROSPINAL FLUID (CSF) TNC-1 RBC-0 Polys-0 
___ ___ 04:45PM CEREBROSPINAL FLUID (CSF) TotProt-40 Glucose-72

CT HEAD W/O CONTRAST Study Date of ___ 11:35 AM FINDINGS: 
   
There is no evidence of infarction,acute hemorrhage,edema,or 
mass.  The 
ventricles and sulci are normal in size and configuration.
There is no evidence of fracture.  The visualized portion of the 
paranasal 
sinuses demonstrate a 5 mm osteoma in a right ethmoidal air 
cell.  Otherwise, the paranasal sinuses, mastoid air cells, and 
middle ear cavities are clear.   The visualized portion of the 
orbits are unremarkable. 

LIVER OR GALLBLADDER US (SINGLE ORGAN) Study Date of ___ 
3:46 ___ 
IMPRESSION:    
No evidence of portal vein thrombosis. 
No evidence of cholelithiasis. 

CXR IMPRESSION:    
Heart size and mediastinum are unremarkable.  Lungs are clear.  
Most likely calcified lymph nodes are projecting over the left 
axilla.  The patient is most likely after bilateral breast 
implantation.  No pneumothorax. 
  

 
Brief Hospital Course:
Ms. ___ is a ___ female with the past medical history 
and findings noted above who presented with altered mental 
status.

#Altered mental status: On presentation, the original 
differential included alcohol withdrawal, intoxication, 
metabolic encephalopathy, psychosis, infection,
CVA. Testing showed no evidence of infection or CVA. She has no
history of mental illness to suggest psychosis. This is most 
likely alcohol intoxication with an occult substance.  She 
received Haldol in the ER and required a sitter.  However, after 
sleeping, she woke up in the morning and was back to normal.  
She was AO x4, she could do complex cognitive tasts, she had no 
symptoms, and her daughter confirmed that she was back to her 
baseline.  She did admit to drinking a bottle of wine a day even 
though she initially said that she only had one a week.  In 
addition, her daughter says that her family reports that she 
drinks heavily at home.  She was given counseling about EtOH 
use. 

#Abnormal TSH, mild to 0.06, and could not explain symptoms.  
She was advised to have follow-up with her PCP at home.  

#Hyponatremia with low serum osmolality: Differential includes
volume depletion or SIADH. No evidence for intracranial
abnormalities, heart failure, renal failure, or cirrhosis to
support SIADH. Given the above history, I think volume depletion
is more likely.  This resolved when she was able to drink.  

#Hypokalemia - Replaced potassium

#Normocytic anemia - no iron deficiency, can be improved with 
nutrition. 

#Hepatitis C: ___ MD ordered ___, but there is no need to 
follow-up because this is a know diagnosis and she can pursue 
further evaluation back home.  

 
Medications on Admission:
Unable to define
 
Discharge Medications:
No changes
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Encephalopathy, possibly from substance use

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with confusion.  You had 
multiple tests that showed there was no evidence of infection, 
no toxic drug levels (that we can measure), and a normal head 
scan.  You were found to have slightly abnormal thyroid tests, 
so you should have this retested when you return home in a month 
to ensure this is better. 

It was a pleasure to participate in your care,
Your ___ team 
 
Followup Instructions:
___